US04032652
A solution of 1.88 g. (0.01 m.) of p-carbamoyloxyaniline hydrochloride and 1.0 g. (0.01 m.) of triethylamine in 50 ml. of methanol is added to a hot solution of 2.21 g. (0.01 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 150 ml. of methanol. The resulting mixture is refluxed for two hours, cooled and the filtered solid recrystallized to give 5-acetyl-3-[1-(p-carbamoyloxyphenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 213°-215° C.

reactant | p-carbamoyloxyaniline hydrochloride | Cl.C(N)(=O)OC1=CC=C(N)C=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-3-[1-(p-carbamoyloxyphenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)OC(N)=O)O | C16H14N2O7
